US07662402B2
14.6 g of 2,2,3,3,4,4,5,5-octafluoropentyl trifluoromethanesulfonate was dissolved in 30 ml of dimethyl sulfoxide, and 5.5 g of potassium carbonate was added. Further, 2.6 g of malononitrile dissolved in 10 ml of dimethyl sulfoxide was added dropwise, and the mixture was stirred at room temperature for 3 hours. Further, 7.0 g of 2,2,3,3,4,4,5,5-octafluoropentyl trifluoromethanesulfonate and 2.7 g of potassium carbonate were added, and the mixture was stirred for 1 hour. Thereafter, dilute hydrochloric acid was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed successively with water and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography. The resulting fraction was concentrated and washed with chloroform to obtain 0.13 g of 2,2-bis(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile (hereinafter, referred to as the present compound (49)).

reactant | 2,2,3,3,4,4,5,5-octafluoropentyl trifluoromethanesulfonate | 14.6 g | FC(S(=O)(=O)OCC(C(C(C(F)F)(F)F)(F)F)(F)F)(F)F | C6H3F11O3S
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | malononitrile | 2.6 g | C(CC#N)#N | C3H2N2
reactant | 2,2,3,3,4,4,5,5-octafluoropentyl trifluoromethanesulfonate | 7.0 g | FC(S(=O)(=O)OCC(C(C(C(F)F)(F)F)(F)F)(F)F)(F)F | C6H3F11O3S
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2,2-bis(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile | 0.13 g | FC(CC(C#N)(C#N)CC(C(C(C(F)F)(F)F)(F)F)(F)F)(C(C(C(F)F)(F)F)(F)F)F | C13H6F16N2
